US09447106B2
To a solution of N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide (187 mg, 0.36 mmol) in acetone (10 mL) was added K2CO3 (100 mg, 0.72 mmol) and CH3I (15 drops). After stirring at RT for 2 hr, the mixture was filtered. The filtrate was concentrated to afford 192 mg (100%) of N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoro-N-methylacetamide as yellow solid. MS (ESI) m/e [M+1]+ 535.8.

reactant | N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide | 0.36 mmol, 187 mg | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(C(F)(F)F)=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C27H19F4N5O2
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
catalyst | CH3I | 15 drops | CI | CH3I
product | N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoro-N-methylacetamide | 192 mg, 100% | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)N(C(C(F)(F)F)=O)C)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C28H21F4N5O2
